US03993609
9.9% Glycidyl Methacrylate
To 50.0 g of Gulf Polyanoxy resin in a 9 oz. waxed paper cup was added 0.10 g of dimethylaniline followed by 2.0 g of LUPERSOL 225. After one hour and 20 minutes, 0.6 g of LUPERSOL 225 was added followed by 0.3 g t-butyl perbenzoate and 1.6 g 1-t-butylazo-1-methoxycyclohexane. Thirty minutes after this addition, the viscosity of the prepolymer had increased to a medium viscosity. To this mixture was added 3.0 g of 86.4 wt.% phosphoric acid with rapid stirring. Foaming began immediately and the temperature increased to 200° F within 7 minutes. The foam was postcured for 1 hour at 100° C.

reactant | dimethylaniline | 0.10 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | LUPERSOL 225 | 2.0 g | CCC(C)OC(=O)OOC(=O)OC(C)CC | C10H18O6
reactant | LUPERSOL 225 | 0.6 g | CCC(C)OC(=O)OOC(=O)OC(C)CC | C10H18O6
reactant | t-butyl perbenzoate | 0.3 g | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
reactant | 1-t-butylazo-1-methoxycyclohexane | 1.6 g | C(C)(C)(C)N=NC1(CCCCC1)OC | C11H22N2O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | Glycidyl Methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
